US07288538B2
To a solution of the 2,4,6-trimethyl-3-pyrrolidin-1-ylaniline (220 mg, 1.00 mmol) in of anhydrous dichloromethane (20 mL), were added pyridine (0.100 mL, 1.3 mmol) and 1-benzenesulfonyl-pyrrolidine-2-carbonyl chloride (0.297 g, 1.0 mmol). The reaction mixture was stirred overnight at room temperature. The solution was acidified with HCl (1N, 20 mL) and extracted with CH2Cl2 (2×20 mL). The combined organic layers were washed with a saturated aqueous solution of sodium bicarbonate (10 mL) and dried over magnesium sulfate (MgSO4). The organic layers were filtered and concentrated under reduced pressure to give a brown solid. The residue was further purified by flash chromatography (silica gel) using 95–5% hexane/ethyl acetate as the mobile phase (gradient) and semi-preparative HPLC to give ′1-(Phenylsulfonyl)-N-(2,4,6-trimethyl-3-pyrrolidin-1-ylphenyl)prolinamide (157 mg) as an off-white solid. MS m/z (M+H)+: calculated (m/z) 442.22, found (m/z) 442.25.

reactant | 2,4,6-trimethyl-3-pyrrolidin-1-ylaniline | 1.00 mmol, 220 mg | CC1=C(N)C(=CC(=C1N1CCCC1)C)C | C13H20N2
reactant | pyridine | 1.3 mmol, 0.100 mL | N1=CC=CC=C1 | C5H5N
reactant | 1-benzenesulfonyl-pyrrolidine-2-carbonyl chloride | 1.0 mmol, 0.297 g | C1(=CC=CC=C1)S(=O)(=O)N1C(CCC1)C(=O)Cl | C11H12ClNO3S
reactant | HCl | 1N, 20 mL | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-(Phenylsulfonyl)-N-(2,4,6-trimethyl-3-pyrrolidin-1-ylphenyl)prolinamide | 157 mg | C1(=CC=CC=C1)S(=O)(=O)N1[C@H](C(=O)NC2=C(C(=C(C=C2C)C)N2CCCC2)C)CCC1 | C24H31N3O3S
